US05010079
1.3 3-(Ethylthio)-5-fluoro-3-{2-[4-(7-methoxy-1,2,3,4-tetrahydro-1-naphthyl)-1-piperazinyl]ethyl}-1,3-dihydro-2(2H)-indolone.
A mixture of 8.1 g (0.0328 mole) of 1-(7-methoxy-1,2,3,4-tetrahydro-1-naphthyl)piperazine and 6.7 g (0.0164 mole) of 3-(ethylthio)-5-fluoro-3-(2-hydroxyethyl)-1,3-dihydro-2(2H)-indolone is heated to 110° C. for 1 hour.

reactant | 1-(7-methoxy-1,2,3,4-tetrahydro-1-naphthyl)piperazine | 0.0328 mole, 8.1 g | COC1=CC=C2CCCC(C2=C1)N1CCNCC1 | C15H22N2O
reactant | 3-(ethylthio)-5-fluoro-3-(2-hydroxyethyl)-1,3-dihydro-2(2H)-indolone | 0.0164 mole, 6.7 g | C(C)SC1(C(NC2=CC=C(C=C12)F)=O)CCO | C12H14FNO2S
product | 3-(Ethylthio)-5-fluoro-3-{2-[4-(7-methoxy-1,2,3,4-tetrahydro-1-naphthyl)-1-piperazinyl]ethyl}-1,3-dihydro-2(2H)-indolone | C(C)SC1(C(NC2=CC=C(C=C12)F)=O)CCN1CCN(CC1)C1CCCC2=CC=C(C=C12)OC | C27H34FN3O2S
